US08071588B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)butanediamide
A mixture of 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid (0.080 g, 0.198 mmol), (({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amine, triethylamine (0.080 mL, 0.575 mmol) and dichloromethane (DCM) (3 mL) was stirred at room temperature overnight. The LC-MS suggested that the reaction was complete. The reaction was diluted with EtOAc and washed in turn with sat. aq. NaHCO3, then saturated aqueous NaCl. The organic phase was dried (Na2SO4) and evaporated to give a residue (175 mg). This residue was purified on a Gilson HPLC on RP column CH3CN—H2O (0.1% TFA) gradient [10-80%]. Fractions containing the desired product were combined and evaporated to a small volume, then treated with saturated aqueous NaHCO3. The mixture was extracted with EtOAc (2×) and the combined extracts were washed with saturated aqueous NaCl and dried (Na2SO4), then evaporated to a glassy solid (52.2 mg). LC-MS m/z 680.7 (M+H)+, 0.76 min (ret time).

reactant | 4-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-4-oxobutanoic acid | 0.198 mmol, 0.080 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)O)=O)CC | C20H29N5O4
reactant | ({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)amine | CN1CCC(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CN | C20H26N2
reactant | triethylamine | 0.575 mmol, 0.080 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)butanediamide | 175 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCC(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCN(CC2)C)=O)CC | C40H53N7O3
